US07452905B2
Process 1 Synthesis of Boc-Phe(4-NO2)-OEt
5 g of Boc-Phe(4-NO2)-OH, 3.09 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 5 ml of ethanol and 2 g of dimethylaminopyridine were stirred in dichloromethane for 3 days. The obtained substance was washed with 1N hydrochloric acid, an aqueous solution of saturated sodium hydrogen carbonate and saturated NaCl solution, and dried with magnesium sulfate. The solvent was removed to obtain the title compound.

reactant | Boc-Phe(4-NO2)-OH | 5 g | N([C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O)C(=O)OC(C)(C)C | C14H18N2O6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.09 g | Cl.CN(CCCN=C=NCC)C
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | dimethylaminopyridine | 2 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Boc-Phe(4-NO2)-OEt | N([C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC)C(=O)OC(C)(C)C | C16H22N2O6
